US09193720B2
Pd(Ph3P)4 (76 mg, 0.066 mmol) was added to an argon-degassed solution of (S)-isopropyl 2-(5-bromo-2,6-dimethyl-4-(4-methylpiperidin-1-yl)pyridin-3-yl)-2-(tert-butoxy)acetate (150 mg, 0.329 mmol), 2-(4-(4-fluorophenethoxy)phenyl)-6-methyl-1,3,6,2-dioxazaborocane-4,8-dione (94 mg, 0.362 mmol), potassium phosphate tribasic (524 mg, 2.47 mmol) in dioxane (2 ml) and water (0.5 ml) stirred in a screw-capped pressure vessel for 16 h at 80° C. The reaction was allowed to cool, diluted with EtOAc, and the organic layer was washed with brine and dried (MgSO4). The crude product was charged (DCM) to a 40 g ISCO silica gel cartridge and gradient elution (0-20% EtOAc/hexanes) using an Isolera chromatography station gave (S)-isopropyl 2-(tert-butoxy)-2-(5-(4-(4-fluorophenethoxy)phenyl)-2,6-dimethyl-4-(4-methylpiperidin-1-yl)pyridin-3-yl)acetate 139 mg (72%) as a mixture of diastereomers. 1H NMR (500 MHz, DMSO-d6) δ 7.44-7.38 (m, 2H), 7.20 (d, J=7.3 Hz, 1H), 7.15 (t, J=8.8 Hz, 2H), 7.03-6.94 (m, 3H), 5.97 (br. s, 1H), 4.96 (dt, J=12.3, 6.3 Hz, 1H), 4.23 (t, J=6.6 Hz, 2H), 3.36-3.29 (m, 4H), 3.07 (t, J=6.6 Hz, 2H), 2.43 (s, 3H), 2.04 (s, 3H), 1.75 (t, J=11.4 Hz, 1H), 1.52-1.47 (m, 1H), 1.37 (br. s, 1H), 1.19 (d, J=6.2 Hz, 3H), 1.15-1.13 (m, 12H), 1.08-1.02 (m, 2H), 0.84 (d, J=5.1 Hz, 3H). UPLC (M+H)=591.56.

reactant | (S)-isopropyl 2-(5-bromo-2,6-dimethyl-4-(4-methylpiperidin-1-yl)pyridin-3-yl)-2-(tert-butoxy)acetate | 0.329 mmol, 150 mg | BrC=1C(=C(C(=NC1C)C)[C@@H](C(=O)OC(C)C)OC(C)(C)C)N1CCC(CC1)C | C22H35BrN2O3
reactant | 2-(4-(4-fluorophenethoxy)phenyl)-6-methyl-1,3,6,2-dioxazaborocane-4,8-dione | 0.362 mmol, 94 mg | FC1=CC=C(CCOC2=CC=C(C=C2)B2OC(CN(CC(O2)=O)C)=O)C=C1 | C19H19BFNO5
reactant | potassium phosphate tribasic | 2.47 mmol, 524 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | water | 0.5 ml | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(Ph3P)4 | 0.066 mmol, 76 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-isopropyl 2-(tert-butoxy)-2-(5-(4-(4-fluorophenethoxy)phenyl)-2,6-dimethyl-4-(4-methylpiperidin-1-yl)pyridin-3-yl)acetate | 139 mg, 72% | C(C)(C)(C)O[C@H](C(=O)OC(C)C)C=1C(=NC(=C(C1N1CCC(CC1)C)C1=CC=C(C=C1)OCCC1=CC=C(C=C1)F)C)C | C36H47FN2O4
